US08202885B2
145 mg of 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid were dissolved in THF (0.13 mL)/DCM (0.5 mL). 0.160 mL of DIPEA, 50 mg of HOBt and 71 mg of EDC were added sequentially at rt. The reaction mixture was stirred for 5 min then 80 mg of rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol were added at rt. The reaction mixture was stirred on at rt then diluted with DCM and washed with sat.-NaHCO3 and brine. The organic phase was dried over anh. Na2SO4, filtered and concentrated in vacuo. The resulting crude material was purified by CC using EtOAc/MeOH/NEt3 as eluant from 100/0/1 to 95/5/1 to yield 189 mg of rac-3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-N-[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-N-methyl-propionamide as a yellow oil.

reactant | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | 145 mg | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)O | C24H30N2O3Si
reactant | DIPEA | 0.160 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 80 mg | CNCCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O | C17H23NO
solvent | THF | 0.13 mL | C1CCOC1 | C4H8O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 71 mg
product | rac-3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-N-[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-N-methyl-propionamide | 189 mg | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)N(C)CC[C@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)O | C41H51N3O3Si
